* C:\Users\Student.N2095-152\Documents\GitHub\MultiversePreamp\Draft1.asc
L1 N004 N002 2200µ Rser=120
V1 N001 N003 SINE(0 170 60) AC 2 Rser=0.0001
C1 N002 0 0.001µ
C2 0 N004 0.001µ
L3 N002 N001 2m Rser=22m
L4 N003 N004 2m Rser=22m
C4 N002 N004 0.47µ
R1 N002 N004 680k
C3 N001 N003 0.47µ
;ac oct 10 1 100MEG
.tran 0 2 0.001 0.0001
K2 L3 L4 0.9999
.backanno
.end
