* C:\Users\Matt\Documents\GitHub\MultiversePreamp\Draft2.asc
V1 N001 0 15
R1 N002 N001 10k
C1 N002 0 10µ
R2 N002 N004 100k
XU1 N002 0 LT1634-2.5
V2 N003 0 SINE(0 2 120)
C2 N004 N003 2.2µ
.tran 0 0.2 0 0.0001
.lib LTC3.lib
.backanno
.end
