* C:\Users\Matt\Documents\GitHub\MultiversePreamp\mute.asc
V1 N007 0 SINE(0 2 80) AC 1
V2 N012 0 PULSE(0 15 0.1 0.001 0.001 0.3)
C1 N013 0 47µ
R2 N013 N012 1k
D1 N013 N014 D
R3 N011 N014 100k
R4 N008 N014 1MEG
J1 N008 N011 N009 PJF
C3 N008 N007 10µ
V3 N001 0 15
C4 N002 0 10µ
R7 N008 N002 {Rb}
R9 N003 N010 20k
R5 N006 0 25k
R10 N004 N003 25k
XU1 0 N003 N001 N015 N004 LT1001
C5 N010 N009 10µ
V4 N015 0 -15
XU2 0 N005 N001 N015 N006 LT1001
R8 N005 N004 20k
R11 N006 N005 20k
R12 N008 0 {Rbn}
R13 N010 0 200k
XU3 0 N001 N002 LT6654-3.3
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.jft
.tran 0 0.6 0 0.0001
;ac oct 16 0.1 100k
.STEP param Rb list 50k 100k 100MEG
.STEP param Rbn list 200k 200k 0.001
.lib LT6654.lib
.lib LTC.lib
.backanno
.end
